US06624159B2
Ethyl 8-((Acetyloxy)methyl)-4-hydroxy-6-methyl-3-quinolinecarboxylate [AV.4]
A mixture of diethyl 2-((2-(hydroxymethyl)-4-methylanilino)methylene)malonate (Preparation 24, 5.0 g) and acetic anhydride (5.0 mL) is heated at 130° C. for 1 h. The acetic anhydride is evaporated, and the residual solid is heated at reflux in diphenyl ether (20 ml) for 1 h. The solution is cooled and diluted with acetonitrile (5 mL) and ether (15 mL). The resulting precipitate is filtered to afford 1.8 g of the title compound.

reactant | diethyl 2-((2-(hydroxymethyl)-4-methylanilino)methylene)malonate | 5.0 g | OCC1=C(NC=C(C(=O)OCC)C(=O)OCC)C=CC(=C1)C | C16H21NO5
reactant | acetic anhydride | 5.0 mL | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 8-((Acetyloxy)methyl)-4-hydroxy-6-methyl-3-quinolinecarboxylate | 1.8 g | C(C)(=O)OCC=1C=C(C=C2C(=C(C=NC12)C(=O)OCC)O)C | C16H17NO5
